US05767285
4-(4-Formyl-2-methoxyphenoxy)butanoic acid, ethyl ester (240 mg, 0.90 mmol) is dissolved in 3 mL of methanol/water (3:2) and treated with 435 mg (3.15 mmol) of potassium carbonate according to the procedure described for Example 4 to give 125 mg (58%) of 4-(4-formyl-2-methoxyphenoxy)butanoic acid as a white powder: m.p. 143°-148°; the 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (KBr) 3575, 3500, 1720, 1700, 1680, 1600, 1585 cm-1 ; MS (CI (low res)) m/e 239 (M+H), 221, 207, 153.

reactant | 4-(4-Formyl-2-methoxyphenoxy)butanoic acid, ethyl ester | 0.90 mmol, 240 mg | C(=O)C1=CC(=C(OCCCC(=O)OCC)C=C1)OC | C14H18O5
reactant | potassium carbonate | 3.15 mmol, 435 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 3 mL | CO.O
product | 4-(4-formyl-2-methoxyphenoxy)butanoic acid | 125 mg, 58% | C(=O)C1=CC(=C(OCCCC(=O)O)C=C1)OC | C12H14O5
